US08563550B2
Imidazo[2,1-b][1,3,4]thiadiazol-2-yl-(4-methoxyphenyl)amine (0.455 g, 1.85 mmol) was dissolved in N,N-dimethylformamide (8 mL) and N-iodosuccinimide (2.03 mmol, 0.48 g) was added in one portion. The reaction mixture was stirred at room temperature for 22 hours in the absence of light. Solvent was evaporated and the residue was purified by column chromatography (Biotage™/Flash, silica, ethylacetate:dichloromethane 2:8 to 0:10) to give 0.11 g of (5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-(4-methoxyphenyl)amine as an off-white solid (16% yield).

reactant | Imidazo[2,1-b][1,3,4]thiadiazol-2-yl-(4-methoxyphenyl)amine | 1.85 mmol, 0.455 g | S1C=2N(N=C1NC1=CC=C(C=C1)OC)C=CN2 | C11H10N4OS
reactant | N-iodosuccinimide | 2.03 mmol, 0.48 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | (5-iodo-imidazo[2,1-b][1,3,4]thiadiazol-2-yl)-(4-methoxyphenyl)amine | 0.11 g, 16% yield | IC1=CN=C2SC(=NN21)NC2=CC=C(C=C2)OC | C11H9IN4OS
